US08563565B2
Synthesis of 4-iodo-2-isopropyloxy-3,5-dimethylpyridine
Sodium hydride (60% oil dispersion, 191 mg) was added to a solution of IPA (0.77 mL) in THF (5 mL). After foaming was stopped, a solution of 2-fluoro-4-iodo-3,5-dimethylpyridine obtained in Preparation Example 29 (500 mg) in THF (5 mL) was added to the solution, and the mixture was stirred at mom temperature for two hours. The mixture was stirred at 50° C. for two hours, and the reaction mixture was then cooled to room temperature. The reaction mixture was cooled at 0° C., and MTBE (20 mL) and water (20 mL) were then added. The organic layer was separated. The organic layer was washed with brine. The combined aqueous layers were extracted with MTBE. The combined organic layers were dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give the title compound (490 mg).

reactant | Sodium hydride | 191 mg | [H-].[Na+]
reactant | IPA | 0.77 mL | CC(C)O | C3H8O
reactant | 2-fluoro-4-iodo-3,5-dimethylpyridine | FC1=NC=C(C(=C1C)I)C | C7H7FIN
reactant | MTBE | 20 mL | CC(C)(C)OC | C5H12O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 4-iodo-2-isopropyloxy-3,5-dimethylpyridine | 490 mg | IC1=C(C(=NC=C1C)OC(C)C)C | C10H14INO
